US07544812B2
2-(2-Fluoro-phenoxy)-2-methyl-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid:
A solution of 2-(2-Fluoro-phenoxy)-2-methyl-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid ethyl ester and 5N NaOH (0.2 mL) in ethanol (2 mL) is refluxed under nitrogen for 1 h, cooled to ambient temperature, and concentrated in vacuo. The residue is diluted with 1N HCl, extracted with CH2Cl2, dried, concentrated, and purified by LCMS to provide the title compound. 1H NMR (400 MHz, CDCl3): δ 7.56-7.51 (m 1H), 7.48-7.33 (m, 2H), 7.26-7.21 (m, 3H), 7.11-6.98 (m, 4H), 6.74 (d, 2H, J=8.4 Hz), 4.49-4.34 (m, 2H), 3.98 (t, 2H, J=5.3 Hz), 3.74-3.67 (m, 1H), 3.42 (t, 1H, J=8.4 Hz), 3.35, 3.23 (ABq, 2H, J=14.5 Hz), 3.08-3.03 (m, 1H), 2.86 (s, 3H), 2.27-2.20 (m, 1H), 1.95-1.88 (m, 1H), 1.42 (s, 3H). MS [ES+] m/z exact mass calc'd for C30H31N2O5F4 575.2169, found 575.2175.

reactant | 2-(2-Fluoro-phenoxy)-2-methyl-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)(C)OC1=C(C=CC=C1)F)=O | C32H34F4N2O5
reactant | NaOH | 5N, 0.2 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 2-(2-Fluoro-phenoxy)-2-methyl-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid | FC1=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCC2N(C(N(C2)CC2=CC=C(C=C2)C(F)(F)F)=O)C)C)C=CC=C1 | C30H30F4N2O5
